US07638541B2
Step 1: 4-Cyano-4-methyl-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-cyano-piperidine-1-carboxylic acid tert-butyl ester (4.52 g, 20 mmol) in THF (50 mL) was added LHMDS in THF (24 mL, 24 mmol) at 0° C. After stirring at 0° C. for 1 hour, MeI (5.7 g) was added. The reaction mixture was kept at 0° C. for 2 hours, then partitioned between EtOAc and H2O. After concentration in vacuo, the residue was purified by silica column chromatography with EtOAc/hexanes to give the desired product.

reactant | 4-cyano-piperidine-1-carboxylic acid tert-butyl ester | 20 mmol, 4.52 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C#N | C11H18N2O2
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | MeI | 5.7 g | CI | CH3I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 24 mmol, 24 mL | C1CCOC1 | C4H8O
product | 4-Cyano-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)C#N | C12H20N2O2
